US06797718B2
N-{2-[2-(4-Amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)ethoxy]ethyl}-N′-[(1R*,2S*)-2-phenylcyclopropyl]urea
Using the method of Examples 54-68, trans-2-phenylcyclopropyl isocyanate was reacted with 1-[2-(2-aminoethoxy)ethyl]-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine to provide the desired compound. The product was purified using Method A. The observed accurate mass was 423.2508.

reactant | trans-2-phenylcyclopropyl isocyanate | C1(=CC=CC=C1)[C@H]1[C@@H](C1)N=C=O | C10H9NO
reactant | 1-[2-(2-aminoethoxy)ethyl]-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine | NCCOCCN1C(=NC=2C(=NC(=C(C21)C)C)N)C | C13H21N5O
product | N-{2-[2-(4-Amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)ethoxy]ethyl}-N′-[(1R*,2S*)-2-phenylcyclopropyl]urea | NC1=NC(=C(C2=C1N=C(N2CCOCCNC(=O)N[C@H]2[C@@H](C2)C2=CC=CC=C2)C)C)C | C23H30N6O2
